US06727264B1
2-METHYL-N-[3-(1-{5-OXO-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure K and Scheme B1 (K2CO3) using 1-[4-(trifluoromethyl)phenyl]-5-chloro-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 475.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(trifluoromethyl)phenyl]-5-chloro-1-pentanone | FC(C1=CC=C(C=C1)C(CCCCCl)=O)(F)F | C12H12ClF3O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-[3-(1-{5-OXO-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C27H33F3N2O2
